US08685986B2
24-(b) (6-{[4-(5-Chlorothiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetic Acid
Reaction and post-treatment were carried out in the same manner as in Example 22-(d) except for using tert-butyl[tert-butoxycarbonyl(6-{[4-(5-chlorothiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate (265 mg, 0.386 mmol) obtained in Example 24-(a) in place of tert-butyl[tert-butoxycarbonyl(6-{[4-(5-methylthiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate to afford the title compound (135 mg) as a slightly brown solid. (Yield: 66%)

reactant | tert-butyl[tert-butoxycarbonyl(6-{[4-(5-chlorothiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate | 0.386 mmol, 265 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)C=1SC(=CN1)Cl)C(=O)OC(C)(C)C)=O | C32H36ClN5O6S2
reactant | tert-butyl[tert-butoxycarbonyl(6-{[4-(5-methylthiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]acetate | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)C=1SC(=CN1)C)C(=O)OC(C)(C)C)=O | C33H39N5O6S2
product | (6-{[4-(5-Chlorothiazol-2-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-ylamino)acetic Acid | 135 mg, Yield: 66% | ClC1=CN=C(S1)C1=CC=C(CC(C2=CC=CC(=N2)NCC(=O)O)NS(=O)(=O)C2=NC=CC=C2)C=C1 | C23H20ClN5O4S2
